US09145409B2
[(1S)-1-[3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl]-2-(3,5-dichloro-1-oxido-pyridin-1-ium-4-yl)ethyl](2S)-1-[4-[[3-[(S)-phenyl-[[(3R)-quinuclidin-3-yl]oxycarbonylamino]methyl]phenoxy]methyl]phenyl]sulfonylpyrrolidine-2-carboxylate formate salt (E32)
To a solution of (S)-methyl 1-((4-((3-((S)-phenyl((((R)-quinuclidin-3-yloxy)carbonyl)amino)methyl)phenoxy)methyl)phenyl)sulfonyl)pyrrolidine-2-carboxylate (I35, 576 mg, 0.91 mmol) in THF (4 mL) and MeOH (4 mL) was added an aqueous solution of LiOH (1 N, 1.8 mL, 1.8 mmol) at room temperature. The resulting mixture was stirred for 16 h before being cooled to 0° C. and acidified with 2 N HCl to pH 2. The resulting mixture was then concentrated in vacuo and azeotroped to dryness with toluene. The resulting carboxylic acid was redissolved in DMF (9.0 mL). To a solution of the acid in DMF (3 mL, 0.30 mmol) was then added (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-hydroxyethyl)pyridine 1-oxide (151 mg, 0.36 mmol) followed by 4-(dimethylamino)-pyridine (18 mg, 0.15 mmol) and N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (151 mg, 0.60 mmol). The resulting mixture was stirred at room temperature for 16 h and partitioned between EtOAc (50 mL) and water (20 mL). The organic layer was dried over MgSO4, filtered and the solvent was removed in vacuo. The residue was dissolved in DMSO (1.5 mL) and purified by preparative HPLC to provide the title compound (90 mg, 29% over two steps) as white solid.

reactant | (S)-methyl 1-((4-((3-((S)-phenyl((((R)-quinuclidin-3-yloxy)carbonyl)amino)methyl)phenoxy)methyl)phenyl)sulfonyl)pyrrolidine-2-carboxylate | 0.91 mmol, 576 mg | C1(=CC=CC=C1)[C@@H](C=1C=C(OCC2=CC=C(C=C2)S(=O)(=O)N2[C@@H](CCC2)C(=O)OC)C=CC1)NC(=O)O[C@H]1CN2CCC1CC2 | C34H39N3O7S
reactant | LiOH | 1.8 mmol, 1 N, 1.8 mL | [Li+].[OH-]
reactant | HCl | 2 N | Cl | ClH
reactant | DMF | 0.30 mmol, 3 mL | CN(C)C=O | C3H7NO
reactant | (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-hydroxyethyl)pyridine 1-oxide | 0.36 mmol, 151 mg | ClC=1C=[N+](C=C(C1C[C@H](O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C18H17Cl2F2NO4
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.60 mmol, 151 mg | Cl.CN(CCCN=C=NCC)C
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | MeOH | 4 mL | CO | CH4O
catalyst | 4-(dimethylamino)-pyridine | 0.15 mmol, 18 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | [(1S)-1-[3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl]-2-(3,5-dichloro-1-oxido-pyridin-1-ium-4-yl)ethyl](2S)-1-[4-[[3-[(S)-phenyl-[[(3R)-quinuclidin-3-yl]oxycarbonylamino]methyl]phenoxy]methyl]phenyl]sulfonylpyrrolidine-2-carboxylate formate | 90 mg, 29% | C(=O)O.C1(CC1)COC=1C=C(C=CC1OC(F)F)[C@H](CC1=C(C=[N+](C=C1Cl)[O-])Cl)OC(=O)[C@H]1N(CCC1)S(=O)(=O)C1=CC=C(C=C1)COC1=CC(=CC=C1)[C@@H](NC(=O)O[C@H]1CN2CCC1CC2)C2=CC=CC=C2 | InChI=1S/C51H52Cl2F2N4O10S.CH2O2/c52-41-27-58(62)28-42(53)40(41)26-45(36-15-18-44(68-50(54)55)46(25-36)66-31-32-11-12-32)67-49(60)43-10-5-21-59(43)70(63,64)39-16-13-33(14-17-39)30-65-38-9-4-8-37(24-38)48(35-6-2-1-3-7-35)56-51(61)69-47-29-57-22-19-34(47)20-23-57;2-1-3/h1-4,6-9,13-18,24-25,27-28,32,34,43,45,47-48,50H,5,10-12,19-23,26,29-31H2,(H,56,61);1H,(H,2,3)/t43-,45-,47-,48-;/m0./s1
